US07943607B2
Methyl 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate
A solution of N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-chloro-2,4-difluoro-N-methylbenzamide (647 mg, 1.78 mmol) in acetonitrile (10 mL) was heated with potassium carbonate (492 mg, 3.56 mmol) and methyl 3-hydroxy-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate (424 mg, 1.78 mmol) at 160° C. for 2.5 hours in a microwave reactor. Water (15 mL) and ethyl acetate (20 mL) was added to the reaction mixture, the layers separated and the aqueous phase extracted with ethyl acetate (3×20 mL). The combined organic extract was washed with brine (10 mL) and dried (MgSO4), filtered and evaporated to a residue which was chromatographed on silica, eluting with 40-100% ethyl acetate in isohexane, to give the desired compound as a clear oil (200 mg).

reactant | N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-chloro-2,4-difluoro-N-methylbenzamide | 1.78 mmol, 647 mg | [Si](C)(C)(C(C)(C)C)OCCN(C(C1=C(C(=C(C=C1)F)Cl)F)=O)C | C16H24ClF2NO2Si
reactant | potassium carbonate | 3.56 mmol, 492 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-hydroxy-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 1.78 mmol, 424 mg | OC=1C=C(C(=O)OC)C=C(C1)O[C@@H]1COCC1 | C12H14O5
reactant | Water | 15 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 200 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)OC)C=C(C2)O[C@@H]2COCC2 | C22H22ClNO7
